US09233974B2
To a solution of rel-(2S,4S,5S)-1-tert-butyl 2-ethyl 4,5-dimethylpyrrolidine-1,2-dicarboxylate in a mixture of THF (70 mL), MeOH (25 mL), and H2O (25 mL) was added lithium hydroxide (1.53 g, 63.7 mmol). The slurry was stirred at room temperature for 2.5 h and at 45° C. for 2 h. The solution was cooled to room temperature and HCl (aqueous, 1N, 70 mL) was added. The organics were concentrated and the resulting aqueous layer was extracted with EtOAc (3×). The combined organic layers were dried over Na2SO4 and concentrated to provide rel-(2S,4S,5S)-1-(tert-butoxycarbonyl)-4,5-dimethylpyrrolidine-2-carboxylic acid (3.08 g, 84%).

reactant | rel-(2S,4S,5S)-1-tert-butyl 2-ethyl 4,5-dimethylpyrrolidine-1,2-dicarboxylate | C[C@H]1C[C@H](N([C@H]1C)C(=O)OC(C)(C)C)C(=O)OCC | C14H25NO4
reactant | MeOH | 25 mL | CO | CH4O
reactant | lithium hydroxide | 63.7 mmol, 1.53 g | [OH-].[Li+]
reactant | HCl | 1N, 70 mL | Cl | ClH
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | H2O | 25 mL | O | H2O
product | rel-(2S,4S,5S)-1-(tert-butoxycarbonyl)-4,5-dimethylpyrrolidine-2-carboxylic acid | 3.08 g, 84% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H]([C@@H]1C)C)C(=O)O | C12H21NO4
